US08022075B2
N-Hydroxy-4-(6-iodoimidazo[1,2-a]pyridin-2-yl)benzamidine (16)
Hydroxylamine hydrochloride (208 mg) and potassium carbonate (415 mg) were added to a solution (10 mL) of 4-(6-iodoimidazo[1,2-a]pyridin-2-yl)benzonitrile (345 mg) in methanol, followed by refluxing for 14 hours. The mixture was left to cool, and the formed crystals were recovered through filtration. The crystals were washed with water and dried, to thereby yield the title compound (279 mg).

reactant | Hydroxylamine hydrochloride | 208 mg | Cl.NO
reactant | potassium carbonate | 415 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(6-iodoimidazo[1,2-a]pyridin-2-yl)benzonitrile | 10 mL, 345 mg | IC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C#N)C=C2 | C14H8IN3
solvent | methanol | CO | CH4O
product | N-Hydroxy-4-(6-iodoimidazo[1,2-a]pyridin-2-yl)benzamidine | 279 mg | ONC(C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)I)C1)=N | C14H11IN4O
